US07105544B2
N-(3-{4-[3-(acetylamino)phenyl]-1-piperidinyl}propyl)-2,2-diphenylacetamide
Example 3 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 7.70 (s, 1H), 7.40 (s, 1H), 7.32–7.20 (m, 12H), 6.96 (t, 1H, J=4.8 Hz), 6.91 (d, 1H, J=7.6 Hz), 4.87 (s, 1H), 3.39 (dd, 2H, J=6.0, 12.4 Hz), 2.90 (d, 2H, J=11.6 Hz), 2.43 (m, 1H), 2.36 (t, 2H, J=6.4 Hz), 2.11 (s, 3H), 1.94 (m, 2H), 1.76 (d, 2H, J=12.4 Hz), 1.68 (t, 2H, J=6.8 Hz), 1.60 (dd, 2H, J=1.2, 8.4 Hz); ESMS m/e: 470.3 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C)=O | C16H25N3O
product | N-(3-{4-[3-(acetylamino)phenyl]-1-piperidinyl}propyl)-2,2-diphenylacetamide | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H35N3O2
